data/oMe_Silver.jsonl
{"reaction_id": "NG-005_1-c1ccc2ccccc2c1_2-S(=O)(=O)c1ccccc1_3-c1occc1","name": "Acid-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(c1ccc2ccccc2c1)C=O","C(S(=O)(=O)c1ccccc1)(c1occc1)=O"],"products_smiles": ["C(S(=O)(=O)c1ccccc1)(c1occc1)=C(C=O)c1ccc2ccccc2c1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc2ccccc2c1)=C(O)S(=O)(=O)c1ccccc1","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity and facilitating enol formation via resonance-stabilized cation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(S(=O)(=O)c1ccccc1)(c1occc1)=[OH+]","rationale": "Protonation of the second carbonyl increases its electrophilicity, making it more susceptible to nucleophilic attack by the enol."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(S(=O)(=O)c1ccccc1)(c1occc1)(O)C(C=[OH+])c1ccc2ccccc2c1","rationale": "The nucleophilic α-carbon of the enol attacks the protonated carbonyl, favored by strong electrophile activation and conjugation potential."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(S(=O)(=O)c1ccccc1)(c1occc1)(O)C(C=O)c1ccc2ccccc2c1","rationale": "Proton transfer restores the neutral β-hydroxyketone, stabilizing the intermediate through hydrogen bonding and resonance."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(S(=O)(=O)c1ccccc1)(c1occc1)([OH2+])C(C=O)c1ccc2ccccc2c1","rationale": "Protonation of the β-hydroxy group converts it into a better leaving group (water) under acidic conditions."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(S(=O)(=O)c1ccccc1)(c1occc1)=C(C=O)c1ccc2ccccc2c1","rationale": "Loss of water forms a conjugated α,β-unsaturated carbonyl, thermodynamically favored due to extended π-system stabilization."}],"description": "Under acidic conditions, one carbonyl is activated toward enolization, while the other is protonated to enhance electrophilicity. The enol attacks the activated carbonyl, forming a β-hydroxyketone intermediate, which then undergoes acid-catalyzed dehydration to yield the α,β-unsaturated carbonyl product."}
